US06444190B2
To a cooled mixture of NaAlH4 (0.22 mol) in toluene is added LiCl (0.11 mol) in THF. Note: LiCl can be added to the reactor prior to the addition of NaAlH4 or after the addition of the substrate, (+/−)trans 3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione. Next, (+/−)trans 3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione (0.083 mol) is added in THF (65 ml) holding the temperature below 15° C. After addition is completed, reaction is allowed to warm to room temperature. After 30 minutes at room temperature, the reaction is heated to >40° C. for 2 hr. The reaction is then cooled to <5° C. and toluene (50 ml) is added. Water (9 ml) is then added slowly holding the temperature below 15° C. Additional H2O or aqueous NaOH is used as necessary. The solid inorganic salts are removed by filtration. These solids are washed with additional THF or toluene. The filtered solution is then concentrated to give (+/−) trans-4-(4′-fluorophenyl)-3-hydroxymethyl-N-methylpiperidine in essentially the same yield and similar impurity profile as with LiAlH4 as shown by HPLC analysis. The product can be recovered by standard procedures such as trituration with a less polar solvents.

reactant | LiCl | 0.11 mol | [Li+].[Cl-]
reactant | (+/−)trans 3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione | C(C)OC(=O)[C@@H]1C(N(C(C[C@H]1C1=CC=C(C=C1)F)=O)C)=O | C15H16FNO4
reactant | (+/−)trans 3-ethoxycarbonyl-4-(4′-fluorophenyl)-N-methyl-piperidine-2,6-dione | 0.083 mol | C(C)OC(=O)[C@@H]1C(N(C(C[C@H]1C1=CC=C(C=C1)F)=O)C)=O | C15H16FNO4
reactant | Water | 9 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (+/−) trans-4-(4′-fluorophenyl)-3-hydroxymethyl-N-methylpiperidine | FC1=CC=C(C=C1)[C@H]1[C@@H](CN(CC1)C)CO | C13H18FNO
